US04535183
To a stirred mixture of 4-hydroxy-2-methylbenzofuran (7.1 g, 0.048 M), anhydrous powdered potassium carbonate (19.87 g) and acetone (82 ml), was added dropwise bromomethoxymethane (11.99 g, 7.88 ml, 0.0959 M) with ice cooling. After the addition was complete the reaction mixture was stirred at room temperature overnight, filtered and evaporated. The residual oil was distilled to give 4-methoxymethoxy-2-methylbenzofuran, b.p. 94°-97° C./0.8 mmHg.

reactant | 4-hydroxy-2-methylbenzofuran | 0.048 M, 7.1 g | OC1=CC=CC2=C1C=C(O2)C | C9H8O2
reactant | potassium carbonate | 19.87 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromomethoxymethane | 0.0959 M, 7.88 ml, 11.99 g | BrCOC | C2H5BrO
solvent | acetone | 82 ml | CC(=O)C | C3H6O
product | 4-methoxymethoxy-2-methylbenzofuran | COCOC1=CC=CC2=C1C=C(O2)C | C11H12O3
